US06030967
4-(8,9-Dihydro-7H-1,3-benzodioxolo[4,5-f]isoindol-7-on-10-yl)-1-methylpyridinium iodide
To a methanol (10 ml) solution of 8,9-dihydro-10-(4-pyridyl)-7H-1,3-benzodioxolo[4,5-f]isoindol-7-one (63 mg) was added methyl iodide (3 ml) and heated under reflux for 3 hours. The resultant precipitates were collected by suction and recrystallized from methanol-THF to give the entitled compound (51 mg) as yellow crystals.

reactant | 8,9-dihydro-10-(4-pyridyl)-7H-1,3-benzodioxolo[4,5-f]isoindol-7-one | 63 mg | N1=CC=C(C=C1)C=1C=2CNC(C2C=C2C1C=1OCOC1C=C2)=O | C18H12N2O3
reactant | methyl iodide | 3 ml | CI | CH3I
solvent | methanol | 10 ml | CO | CH4O
product | 4-(8,9-Dihydro-7H-1,3-benzodioxolo[4,5-f]isoindol-7-on-10-yl)-1-methylpyridinium iodide | 51 mg | [I-].O1COC2=C1C1=C(C=3CNC(C3C=C1C=C2)=O)C2=CC=[N+](C=C2)C | InChI=1S/C19H14N2O3.HI/c1-21-6-4-11(5-7-21)16-14-9-20-19(22)13(14)8-12-2-3-15-18(17(12)16)24-10-23-15;/h2-8H,9-10H2,1H3;1H
